US05854268
2. 1-(tert-Butoxycarbonyl)-4-(4-fluorobenzylsulfinyl)piperidine
Using a similar method to that described in Example 107, step 1, 1-(tert-butoxycarbonyl)-4-(4-fluorobenzylthio)piperidine (1.5065 g, 4.63 mmol) was reacted with 57-86% 3-chloroperoxybenzoic acid (1.0190 g) in dichloromethane (100ml) to give 1.5287 g (97%) of the title compound as a white solid. δH (250 MHz, CDCl3) 1.46 (9H, s), 1.64-1.82 (3H, m), 2.02 (1H, m), 2.63 (1H, m), 2.81 (2H, m), 3.88 (1H, d, J=13.2 Hz), 3.98 (1H, d, J=13.2 Hz), 4.21 (2H, m), 7.08 (2H, t, J=8.6 Hz), 7.29 (2H, m); m/e (ES+) 683 (2M+H)+, 342 (M+H)+.

reactant | 1-(tert-butoxycarbonyl)-4-(4-fluorobenzylthio)piperidine | 4.63 mmol, 1.5065 g | C(C)(C)(C)OC(=O)N1CCC(CC1)SCC1=CC=C(C=C1)F | C17H24FNO2S
reactant | 3-chloroperoxybenzoic acid | 1.0190 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 100ml | ClCCl | CH2Cl2
product | 1-(tert-Butoxycarbonyl)-4-(4-fluorobenzylsulfinyl)piperidine | 1.5287 g, 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)CC1=CC=C(C=C1)F | C17H24FNO3S
